US08466114B2
To a stirred solution of acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester (180 mg) in methanol (2 mL) was added sodium methoxide (20 mg). After stirring at room temperature overnight, the reaction mixture was concentrated to furnish 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid methyl ester. The resulting crude material was taken for the further conversion (195 mg).

reactant | acetic acid (2R,3R,4R,5S,6S)-3,4,5-triacetoxy-6-[4-chloro-3-(2-cyano-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 180 mg | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OC(C)=O)OC(C)=O)C1=CC(=C(C=C1)Cl)CC=1C=CC2=C(NCC(O2)C#N)C1)COC(C)=O | C30H31ClN2O10
reactant | sodium methoxide | 20 mg | C[O-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
product | 6-[2-chloro-5-((2S,3R,4R,5S,6R)-3,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-2-yl)-benzyl]-3,4-dihydro-2H-benzo[1,4]oxazine-2-carboxylic acid methyl ester | COC(=O)C1OC2=C(NC1)C=C(C=C2)CC2=C(C=CC(=C2)[C@@H]2O[C@@H]([C@H]([C@@H]([C@H]2O)O)O)CO)Cl | C23H26ClNO8
